US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine and 3-(3-chloropropyl)-1,5-dimethyl-2,4(1H,3H)-pyrimidinedione gave 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-1,5-dimethyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 212°14 213° C.; Anal.: Calcd. for C21H27F3N4O3.(HCl)2 : C, 49.12; H, 5.69; N, 10.91%; Found: C, 48.97; H, 5.68; N, 10.77%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)phenyl]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 3-(3-chloropropyl)-1,5-dimethyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(N(C=C(C1=O)C)C)=O | C9H13ClN2O2
product | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-1,5-dimethyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(N(C=C(C1=O)C)C)=O)(F)F | InChI=1S/C21H27F3N4O3.ClH/c1-16-14-25(2)20(30)28(19(16)29)9-5-8-26-10-12-27(13-11-26)17-6-3-4-7-18(17)31-15-21(22,23)24;/h3-4,6-7,14H,5,8-13,15H2,1-2H3;1H
